US07348450B2
Sodium carbonate (1.35 g, 13 mmol) and dimethyl sulfate (2.17 g, 17 mmol) were added to a solution of 4-hydroxy-6-trifluoromethylpyran-2-one (3.0 g, 17 mmol) in acetone (50 mL). The mixture was heated under reflux for 3 hours and, after cooling, filtered. Concentration of the filtrate resulted in 2.9 g of crude product as a brown oil. It was possible to obtain 4-methoxy-6-trifluoromethylpyran-2-one (2.74 g, 14 mmol, 83%) as colorless needles with a melting point of 61° C. by crystallization from hexane.

reactant | Sodium carbonate | 13 mmol, 1.35 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethyl sulfate | 17 mmol, 2.17 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 4-hydroxy-6-trifluoromethylpyran-2-one | 17 mmol, 3.0 g | OC1=CC(OC(=C1)C(F)(F)F)=O | C6H3F3O3
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 4-methoxy-6-trifluoromethylpyran-2-one | 14 mmol, 2.74 g, 83% | COC1=CC(OC(=C1)C(F)(F)F)=O | C7H5F3O3
